US06730682B2
5-Hydroxy-[1,7]naphthyridine-6-carboxamides. Preparation of specific examples of heterocycle W3.6 follows established precedent for 5-hydroxy--[1,7]naphthyridine ring synthesis (Just. Liebigs. 1979, 443-445.), Chart P. 5-Iodo-2-methylpyridine-3-carboxylic acid (P.1) (J. Am. Chem. Soc. 1953, 75, 737) is brominated under radical conditions (e.g. NBS, benzoylperoxide) to afford pyridine P.2. P.2 is treated with ethyl 2-N-toluenesulfonylaminoacetate to provide P.3. Upon treatment of P.3 with ethoxide in ethanol, ring cyclization and elimination occurs to afford naphthyridine P.4. The resulting ester is then treated with a benzylamine (e.g. 4-chlorobenzylamine, 4-bromobenzylamine, or 4-fluorobenzylamine) at high temperature to afford the corresponding amides of the general formula P.5 or, alternatively, ester P.4 is saponified to afford the corresponding acid which is then coupled with a benzylamine employing standard amide coupling protocols (e.g. HOBT/EDC or other suitable carboxylic acid activating agent) to likewise provide amides of the general formula P.5.

reactant | 5-Iodo-2-methylpyridine-3-carboxylic acid | IC=1C=C(C(=NC1)C)C(=O)O | C7H6INO2
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoylperoxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | ethoxide | [O-]CC
solvent | ethanol | C(C)O | C2H6O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | naphthyridine | N1=CC=CC2=CC=CN=C12 | C8H6N2
